US06051712
In an analogous manner to that described in Example 22 (l), from tert-butyl (3SR,4RS,5RS)-4-[4-(3-benzyloxy-propoxy)-phenyl]-3-methoxymethyl-5-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate by cleavage of the BOC group by means of hydrogen chloride in methanol there was obtained (3SR,4RS,5RS)-4-[4-(3-benzyloxy-propoxy)-phenyl]-3-methoxymethyl-5-(naphthalen-2-ylmethoxy)-piperidine as an amorphous, colourless solid; MS: 526 (M+H)+.

reactant | tert-butyl (3SR,4RS,5RS)-4-[4-(3-benzyloxy-propoxy)-phenyl]-3-methoxymethyl-5-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate | C(C1=CC=CC=C1)OCCCOC1=CC=C(C=C1)C1C(CN(CC1OCC1=CC2=CC=CC=C2C=C1)C(=O)OC(C)(C)C)COC | C39H47NO6
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | CO | CH4O
product | (3SR,4RS,5RS)-4-[4-(3-benzyloxy-propoxy)-phenyl]-3-methoxymethyl-5-(naphthalen-2-ylmethoxy)-piperidine | C(C1=CC=CC=C1)OCCCOC1=CC=C(C=C1)C1C(CNCC1OCC1=CC2=CC=CC=C2C=C1)COC | C34H39NO4
